US08530388B2
A suspension of 2-(4′-chloro-4-ethylbiphen-3-yl)cyclopent-4-ene-1,3-dione (0.200 g, 0.65 mmol) and crude bis(trimethylsilylmethyl)sulphoxide (0.406 g, 0.97 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (3 ml) is heated at 100° C. for 20 minutes under microwave irradiation. The reaction mixture is then partitioned between diethylether and distilled water, and the organic phase is washed with water (×2) then brine. After drying over magnesium sulfate the crude mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is purified by preparative reverse phase HPLC to afford 5-(4′-chloro-4-ethylbiphenyl-3-yl)-tetrahydrocyclopenta[c]thiophene-4,6-dione.

reactant | 2-(4′-chloro-4-ethylbiphen-3-yl)cyclopent-4-ene-1,3-dione | 0.65 mmol, 0.200 g | ClC1=CC=C(C=2C=CC(=C(C2)C2C(C=CC2=O)=O)CC)C=C1 | C19H15ClO2
reactant | bis(trimethylsilylmethyl)sulphoxide | 0.97 mmol, 0.406 g | C[Si](C)(C)CS(=O)C[Si](C)(C)C | C8H22OSSi2
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 3 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | 5-(4′-chloro-4-ethylbiphenyl-3-yl)-tetrahydrocyclopenta[c]thiophene-4,6-dione | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)CC)C1C(C2C(CSC2)C1=O)=O | C21H19ClO2S
